US08604210B2
Synthesis of 3-phenyl-4-propyl-1-(pyridin-2-yl)-1H-pyrazol-5-ol (78)
Ethyl 2-benzoylpentanoate (355 mg, 1.5 mmol) was dissolved in 5 mL of ethanol to which 2-hydrazinopyridine (163 mg, 1.5 mmol) was then added, followed by refluxing at 100° C. After 20 hours, ethanol was concentrated, followed by extraction with ethyl acetate. The extract was washed two or three times with water, and the organic layer was dried over anhydrous MgSO4 and then concentrated. The resulting residue was purified by column chromatography (n-hexane:EA=10:1) to afford the title compound.

reactant | Ethyl 2-benzoylpentanoate | 1.5 mmol, 355 mg | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)CCC | C14H18O3
reactant | 2-hydrazinopyridine | 1.5 mmol, 163 mg | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-phenyl-4-propyl-1-(pyridin-2-yl)-1H-pyrazol-5-ol | Yield: 80% | C1(=CC=CC=C1)C1=NN(C(=C1CCC)O)C1=NC=CC=C1 | C17H17N3O
